Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Pyelonephritis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is a ___ yo G1P0 at 12w5d GA who presented to the ___ ED 
as a transfer from ___ with a diagnosis of acute 
pyelonephritis.  She reports that she awoke on ___ with 
suprapubic pain, urinary urgency and frequency.  This persisted 
throughout the day.  In the evening, she went to a holiday party
where at ___ she experienced right sided back pain and soon 
after that had emesis.  Between the party, the car, home, and at 
___ she had a total of 7 episodes of emesis.  She 
presented to the ___ ED where U/A reportedly 
showed 3+ blood, 1+ protein, and R flank pain was noted.  CBC 
showed WBC of 21.5.  U/S showed nl FHR.  She received 1g of IV 
ceftriaxone
at 22:25 and was transferred to the ___ where CVAT was again 
noted.  She was afebrile throughout, with Tmax noted at 99.1 in 
the ___ ED.  U/A and UCx were repeated.  The decision was made 
to admit the patient to the antepartum service for inpatient 
managment.
 
Past Medical History:
NC:
___ ___
O+/Ab-/R equiv/varicella equiv/rPRNR/HBsAg-/HIV-
part one of SST: elevated DS <1:25

ObHx: G1
GynHx: no hx abn Pap or STI
PMH: asthma in childhood, no ___ hosp/intubation, no inhaler in
___ yrs
PSH: dental only

 
Social History:
Denies T/E/D
 
Physical Exam:
in ED: 98.4, 94, 109/64, 15, 98% RA
on arrival to 6S: 97.3, 88, 100/60, 16, 97% RA
Gen: comfortable, pleasant
CV: RRR, ___ systolic murmur
lungs: CTAB
back: no CVAT (patient indicates right flank as the site of 
previous CVAT)
abd: soft, slight TTP suprapubically, ND, +bs
GU: no VB, pelvic deferred
Extr: NT, NE

 
Pertinent Results:
___ 05:37AM BLOOD Neuts-56.6 ___ Monos-4.1 Eos-1.7 
Baso-0.6
___ 05:37AM BLOOD WBC-11.4* RBC-3.76* Hgb-11.4* Hct-33.2* 
MCV-88 MCH-30.4 MCHC-34.5 RDW-12.7 Plt ___
___ 03:55AM URINE Blood-LG Nitrite-NEG Protein-NEG 
Glucose-250 Ketone-150 Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 03:55AM URINE ___ Bacteri-NONE Yeast-NONE 
___

 **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
Ms. ___ was admitted with acute pyelonephritis. She was 
transferred to the antepartum floor where she received a full 
course of ceftriaxone IV. She was afebrile and her WBC decreased 
from 21 to 11.4. She was transitioned to PO Keflex. Her pain 
resolved and she was discharged home on ___ in good condition. 
She had a positive fetal heart tone throughout the 
hospitalization. She will follow up with her primary OB in the 
community. 

 
Medications on Admission:
PNV
 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for Constipation.  
2. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for Pain.  
3. calcium carbonate 200 mg (500 mg) Tablet, Chewable Sig: One 
(1) Tablet, Chewable PO QID (4 times a day) as needed for 
Dyspepsia.  
4. magnesium hydroxide 400 mg/5 mL Suspension Sig: ___ MLs PO 
Q6H (every 6 hours) as needed for Constipation.  
5. B complex-vitamin C-folic acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
6. cephalexin 500 mg Capsule Sig: One (1) Capsule PO Q6H (every 
6 hours): for 10 days.
Disp:*40 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right pyelonephritis
13 weeks pregnant

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
see warning information below
Complete antibiotics as prescribed
Call office if any recurrence of urinary symptoms
 
Followup Instructions:
___